simulator lang=spectre
global 0

ahdl_include "../submission/autozero_comparator_preamplifier_top.va"
ahdl_include "../submission/offset_store_cell.va"
ahdl_include "../submission/clocked_comparator_core.va"

Vvinp (vinp 0) vsource type=pwl wave=[0 0.56 7n 0.56 13n 0.49 23n 0.49 33n 0.40 47n 0.40 58n 0.63 76n 0.61]
Vvinn (vinn 0) vsource type=pwl wave=[0 0.44 7n 0.44 13n 0.45 23n 0.45 33n 0.54 47n 0.54 58n 0.50 76n 0.46]
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=5n width=2n delay=2.4n rise=60p fall=60p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.7n 0.9 1.8n 0 50n 0 50.1n 0.9 53n 0.9 53.1n 0 76n 0]
Vaz_en (az_en 0) vsource type=pwl wave=[0 0 6n 0 6.1n 0.9 10n 0.9 10.1n 0 29n 0 29.1n 0.9 34n 0.9 34.1n 0 56n 0 56.1n 0.9 60n 0.9 60.1n 0 76n 0]
Veval_en (eval_en 0) vsource type=pwl wave=[0 0 12n 0 12.1n 0.9 23n 0.9 23.1n 0 36n 0 36.1n 0.9 48n 0.9 48.1n 0 64n 0 64.1n 0.9 72n 0.9 72.1n 0 76n 0]

XDUT (vinp vinn clk rst az_en eval_en decision offset_store ready) autozero_comparator_preamplifier_top


tran tran stop=76n maxstep=80p
save vinp vinn clk rst az_en eval_en decision offset_store ready
